US07902367B2
Methyl 3-[3-[2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]ethenyl]piperidin-1-yl]benzoate
Using 3-[2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]ethenyl]piperidine (153 mg, 0.480 mmol) and 3-(methoxycarbonyl)phenylboric acid (173 mg, 0.960 mmol), the same procedure was followed as in Example 2 to give 77.7 mg (36%) of the desired compound as a yellow powder.

reactant | 3-[2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]ethenyl]piperidine | 0.480 mmol, 153 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C=CC1CNCCC1 | C17H19ClN2S
reactant | 3-(methoxycarbonyl)phenylboric acid | 0.960 mmol, 173 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
product | Methyl 3-[3-[2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]ethenyl]piperidin-1-yl]benzoate | 77.7 mg, 36% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C=CC1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C25H25ClN2O2S
